US09212187B2
Synthesis of 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
1.0M-boron tribromide/dichloromethane solution (1.22 ml) was added to a dichloromethane solution (3 ml) of 1-ethyl-7-methoxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (169 mg) at 0° C. The mixture was stirred at room temperature overnight. Water and methanol were added to the reaction mixture, and extraction was performed using a dichloromethane/methanol mixture (dichloromethane:methanol=10:1). The organic layer was dried over anhydrous sodium sulfate, and condensed to dryness under reduced pressure to give the title compound (156.4 mg) as a white powder.

reactant | boron tribromide dichloromethane | 1.22 ml | B(Br)(Br)Br.ClCCl
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | 1-ethyl-7-methoxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 169 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OC | C15H20N2O3
reactant | Water | O | H2O
solvent | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 156.4 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
